US04117128
3-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-2-(4-tolyl)benzofuran
Reaction of 3-(4-hydroxyphenylsulfonyl)-2-(4-tolyl)benzofuran with 3-diethylaminopropyl chloride according to the procedure described in Example 1 gives the title compound.

reactant | 3-(4-hydroxyphenylsulfonyl)-2-(4-tolyl)benzofuran | OC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)C | C21H16O4S
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 3-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-2-(4-tolyl)benzofuran | C(C)N(CCCOC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)C)CC | C28H31NO4S
